* Ideal crossbar read-energy validation
* rows=128 cols=128 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 8.03462247209e-05 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0.0344044189331 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 0.0376633407045 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0.0215765026899 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 0.0128505867402 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 0.00499285495619 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 0.0375722789721 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 0.0393376566168 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0.0394400628921 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 0.0630315337928 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 0.0113207663664 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 0.00301982430989 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 0.0138912268125 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0.00311885171981 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 0.0116416812315 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0.0401194926652 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0.00271268149941 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0.023937745015 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 0.0320187189207 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 0.0366021957427 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0.023533638163 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0.00979352586694 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0.0117014498708 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0.0023467844727 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 0.00290736840808 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 203.965819971
Reqrow1 row1 0 213.752934872
Reqrow2 row2 0 231.761027508
Reqrow3 row3 0 232.208106565
Reqrow4 row4 0 211.123388749
Reqrow5 row5 0 229.689222093
Reqrow6 row6 0 214.940913403
Reqrow7 row7 0 218.740423383
Reqrow8 row8 0 209.425196958
Reqrow9 row9 0 229.223442583
Reqrow10 row10 0 194.766745576
Reqrow11 row11 0 216.747407705
Reqrow12 row12 0 205.894807045
Reqrow13 row13 0 203.296923863
Reqrow14 row14 0 209.668744984
Reqrow15 row15 0 232.596826249
Reqrow16 row16 0 202.726346495
Reqrow17 row17 0 220.848480195
Reqrow18 row18 0 221.083356864
Reqrow19 row19 0 221.790677728
Reqrow20 row20 0 233.373565562
Reqrow21 row21 0 214.880297157
Reqrow22 row22 0 223.37536987
Reqrow23 row23 0 220.622303968
Reqrow24 row24 0 196.468156454
Reqrow25 row25 0 209.938280282
Reqrow26 row26 0 218.498304654
Reqrow27 row27 0 211.334454238
Reqrow28 row28 0 201.021619835
Reqrow29 row29 0 245.509512106
Reqrow30 row30 0 247.767350226
Reqrow31 row31 0 214.190876596
Reqrow32 row32 0 194.457107445
Reqrow33 row33 0 209.995467586
Reqrow34 row34 0 215.42875279
Reqrow35 row35 0 209.185540708
Reqrow36 row36 0 205.672636572
Reqrow37 row37 0 208.698132402
Reqrow38 row38 0 211.120787552
Reqrow39 row39 0 226.513053212
Reqrow40 row40 0 212.509133899
Reqrow41 row41 0 208.854410723
Reqrow42 row42 0 223.000781341
Reqrow43 row43 0 236.130788702
Reqrow44 row44 0 223.173116264
Reqrow45 row45 0 220.321279952
Reqrow46 row46 0 224.784028142
Reqrow47 row47 0 219.513034865
Reqrow48 row48 0 209.093353355
Reqrow49 row49 0 206.331032872
Reqrow50 row50 0 210.231554921
Reqrow51 row51 0 194.233513078
Reqrow52 row52 0 226.548883251
Reqrow53 row53 0 217.366672419
Reqrow54 row54 0 197.747780772
Reqrow55 row55 0 228.006657033
Reqrow56 row56 0 226.373993949
Reqrow57 row57 0 207.222378216
Reqrow58 row58 0 204.095348826
Reqrow59 row59 0 234.988880252
Reqrow60 row60 0 222.299392801
Reqrow61 row61 0 191.974421018
Reqrow62 row62 0 233.507285174
Reqrow63 row63 0 208.40283718
Reqrow64 row64 0 231.598903583
Reqrow65 row65 0 206.132923995
Reqrow66 row66 0 210.045092865
Reqrow67 row67 0 193.087762551
Reqrow68 row68 0 243.039859454
Reqrow69 row69 0 218.53710449
Reqrow70 row70 0 214.018739613
Reqrow71 row71 0 218.929503513
Reqrow72 row72 0 202.603526082
Reqrow73 row73 0 208.828149067
Reqrow74 row74 0 213.096950318
Reqrow75 row75 0 189.845212706
Reqrow76 row76 0 225.82631891
Reqrow77 row77 0 241.548038611
Reqrow78 row78 0 203.453159889
Reqrow79 row79 0 225.827988951
Reqrow80 row80 0 206.427272575
Reqrow81 row81 0 213.009593219
Reqrow82 row82 0 208.199008434
Reqrow83 row83 0 229.677563591
Reqrow84 row84 0 222.092829013
Reqrow85 row85 0 203.091165566
Reqrow86 row86 0 212.632255381
Reqrow87 row87 0 223.182378739
Reqrow88 row88 0 260.635740205
Reqrow89 row89 0 228.784221859
Reqrow90 row90 0 194.028903644
Reqrow91 row91 0 215.030676763
Reqrow92 row92 0 208.779238758
Reqrow93 row93 0 209.684728083
Reqrow94 row94 0 218.343349774
Reqrow95 row95 0 208.82989543
Reqrow96 row96 0 227.24428424
Reqrow97 row97 0 224.850849392
Reqrow98 row98 0 188.200591214
Reqrow99 row99 0 222.8388153
Reqrow100 row100 0 209.685412809
Reqrow101 row101 0 230.015316149
Reqrow102 row102 0 205.333621891
Reqrow103 row103 0 215.119434261
Reqrow104 row104 0 255.135993913
Reqrow105 row105 0 203.229501726
Reqrow106 row106 0 213.851926812
Reqrow107 row107 0 226.289847886
Reqrow108 row108 0 226.475061708
Reqrow109 row109 0 203.134243724
Reqrow110 row110 0 233.352169128
Reqrow111 row111 0 227.805481142
Reqrow112 row112 0 213.377663891
Reqrow113 row113 0 208.749230046
Reqrow114 row114 0 204.494690747
Reqrow115 row115 0 223.31654012
Reqrow116 row116 0 235.431928443
Reqrow117 row117 0 211.28042357
Reqrow118 row118 0 201.873623378
Reqrow119 row119 0 213.268895013
Reqrow120 row120 0 249.910097958
Reqrow121 row121 0 217.442391096
Reqrow122 row122 0 193.793985993
Reqrow123 row123 0 204.975706062
Reqrow124 row124 0 213.90275095
Reqrow125 row125 0 203.538526457
Reqrow126 row126 0 226.928103096
Reqrow127 row127 0 221.683485277
Bpwr pwr 0 v = (v(row0)*v(row0)/203.965819971) + (v(row1)*v(row1)/213.752934872) + (v(row2)*v(row2)/231.761027508) + (v(row3)*v(row3)/232.208106565) + (v(row4)*v(row4)/211.123388749) + (v(row5)*v(row5)/229.689222093) + (v(row6)*v(row6)/214.940913403) + (v(row7)*v(row7)/218.740423383) + (v(row8)*v(row8)/209.425196958) + (v(row9)*v(row9)/229.223442583) + (v(row10)*v(row10)/194.766745576) + (v(row11)*v(row11)/216.747407705) + (v(row12)*v(row12)/205.894807045) + (v(row13)*v(row13)/203.296923863) + (v(row14)*v(row14)/209.668744984) + (v(row15)*v(row15)/232.596826249) + (v(row16)*v(row16)/202.726346495) + (v(row17)*v(row17)/220.848480195) + (v(row18)*v(row18)/221.083356864) + (v(row19)*v(row19)/221.790677728) + (v(row20)*v(row20)/233.373565562) + (v(row21)*v(row21)/214.880297157) + (v(row22)*v(row22)/223.37536987) + (v(row23)*v(row23)/220.622303968) + (v(row24)*v(row24)/196.468156454) + (v(row25)*v(row25)/209.938280282) + (v(row26)*v(row26)/218.498304654) + (v(row27)*v(row27)/211.334454238) + (v(row28)*v(row28)/201.021619835) + (v(row29)*v(row29)/245.509512106) + (v(row30)*v(row30)/247.767350226) + (v(row31)*v(row31)/214.190876596) + (v(row32)*v(row32)/194.457107445) + (v(row33)*v(row33)/209.995467586) + (v(row34)*v(row34)/215.42875279) + (v(row35)*v(row35)/209.185540708) + (v(row36)*v(row36)/205.672636572) + (v(row37)*v(row37)/208.698132402) + (v(row38)*v(row38)/211.120787552) + (v(row39)*v(row39)/226.513053212) + (v(row40)*v(row40)/212.509133899) + (v(row41)*v(row41)/208.854410723) + (v(row42)*v(row42)/223.000781341) + (v(row43)*v(row43)/236.130788702) + (v(row44)*v(row44)/223.173116264) + (v(row45)*v(row45)/220.321279952) + (v(row46)*v(row46)/224.784028142) + (v(row47)*v(row47)/219.513034865) + (v(row48)*v(row48)/209.093353355) + (v(row49)*v(row49)/206.331032872) + (v(row50)*v(row50)/210.231554921) + (v(row51)*v(row51)/194.233513078) + (v(row52)*v(row52)/226.548883251) + (v(row53)*v(row53)/217.366672419) + (v(row54)*v(row54)/197.747780772) + (v(row55)*v(row55)/228.006657033) + (v(row56)*v(row56)/226.373993949) + (v(row57)*v(row57)/207.222378216) + (v(row58)*v(row58)/204.095348826) + (v(row59)*v(row59)/234.988880252) + (v(row60)*v(row60)/222.299392801) + (v(row61)*v(row61)/191.974421018) + (v(row62)*v(row62)/233.507285174) + (v(row63)*v(row63)/208.40283718) + (v(row64)*v(row64)/231.598903583) + (v(row65)*v(row65)/206.132923995) + (v(row66)*v(row66)/210.045092865) + (v(row67)*v(row67)/193.087762551) + (v(row68)*v(row68)/243.039859454) + (v(row69)*v(row69)/218.53710449) + (v(row70)*v(row70)/214.018739613) + (v(row71)*v(row71)/218.929503513) + (v(row72)*v(row72)/202.603526082) + (v(row73)*v(row73)/208.828149067) + (v(row74)*v(row74)/213.096950318) + (v(row75)*v(row75)/189.845212706) + (v(row76)*v(row76)/225.82631891) + (v(row77)*v(row77)/241.548038611) + (v(row78)*v(row78)/203.453159889) + (v(row79)*v(row79)/225.827988951) + (v(row80)*v(row80)/206.427272575) + (v(row81)*v(row81)/213.009593219) + (v(row82)*v(row82)/208.199008434) + (v(row83)*v(row83)/229.677563591) + (v(row84)*v(row84)/222.092829013) + (v(row85)*v(row85)/203.091165566) + (v(row86)*v(row86)/212.632255381) + (v(row87)*v(row87)/223.182378739) + (v(row88)*v(row88)/260.635740205) + (v(row89)*v(row89)/228.784221859) + (v(row90)*v(row90)/194.028903644) + (v(row91)*v(row91)/215.030676763) + (v(row92)*v(row92)/208.779238758) + (v(row93)*v(row93)/209.684728083) + (v(row94)*v(row94)/218.343349774) + (v(row95)*v(row95)/208.82989543) + (v(row96)*v(row96)/227.24428424) + (v(row97)*v(row97)/224.850849392) + (v(row98)*v(row98)/188.200591214) + (v(row99)*v(row99)/222.8388153) + (v(row100)*v(row100)/209.685412809) + (v(row101)*v(row101)/230.015316149) + (v(row102)*v(row102)/205.333621891) + (v(row103)*v(row103)/215.119434261) + (v(row104)*v(row104)/255.135993913) + (v(row105)*v(row105)/203.229501726) + (v(row106)*v(row106)/213.851926812) + (v(row107)*v(row107)/226.289847886) + (v(row108)*v(row108)/226.475061708) + (v(row109)*v(row109)/203.134243724) + (v(row110)*v(row110)/233.352169128) + (v(row111)*v(row111)/227.805481142) + (v(row112)*v(row112)/213.377663891) + (v(row113)*v(row113)/208.749230046) + (v(row114)*v(row114)/204.494690747) + (v(row115)*v(row115)/223.31654012) + (v(row116)*v(row116)/235.431928443) + (v(row117)*v(row117)/211.28042357) + (v(row118)*v(row118)/201.873623378) + (v(row119)*v(row119)/213.268895013) + (v(row120)*v(row120)/249.910097958) + (v(row121)*v(row121)/217.442391096) + (v(row122)*v(row122)/193.793985993) + (v(row123)*v(row123)/204.975706062) + (v(row124)*v(row124)/213.90275095) + (v(row125)*v(row125)/203.538526457) + (v(row126)*v(row126)/226.928103096) + (v(row127)*v(row127)/221.683485277)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/low_layers_0_ffn_3_r0c0.dat v(pwr)
quit
.endc
.end
